US05843917
(b) 5'-O-(tert-Butyldimethylsilyl)-3'-O-(3-Carboxypropionyl)-2'-deoxy-5-fluorouridine
4.0 g (11.0 mmol) of 5'-O-(tert-Butyldimethylsilyl)-2'-deoxy-5-fluorouridine was dried by twice dissolving the nucleoside in 25 ml of anhydrous pyridine in a round bottom flask and evaporating the pyridine on a rotary evaporator. To the thus dried protected nucleoside re-dissolved in 20 ml pyridine was added 0.54 g (4.4 mmol) of 4-dimethylaminopyridine all at once and 0.84 g (8.4 mmol) succinic anhydride (Aldrich Chemical Company, Milwaukee, Wis. 53233) in three portions over 90 min. After stirring for 2.5 hrs, another equal portion of 4-dimethylaminopyridine was added. The flask was sealed with a serum stopper and the mixture was allowed to stir overnight. After this time, pyridine was removed on the rotary evaporator by co-evaporation with 4×50 ml toluene to give a tan foam. The foam was dissolved in 100 ml dichloromethane and extracted with 3×100 ml cold aqueous 10% citric acid, followed by 100 ml water. The dichloromethane layer was dried over magnesium sulphate, filtered, and the solvent was removed on a rotary evaporator to give 3.9 g of a tan foam. This foam was dissolved in a minimal amount of dichloromethane and applied to a column (4.5×30 cm) packed with silica gel (350 g, 230-400 mesh) in dichloromethane. Under medium air pressure (9-12 psi) the column was first eluted with 1 L of chloroform followed by elution with 1 L of 1% methanol in chloroform. The percentage of methanol was increased 1% for each successive litre. The product was eluted into fractions between 2% and 10% methanol in chloroform. Product fractions were pooled and the solvent was removed on the rotary evaporator to give 2.0 g (4.3 mmol) of a white solid: m.p. 133.4°-135.3° C.

reactant | 5'-O-(tert-Butyldimethylsilyl)-2'-deoxy-5-fluorouridine | 11.0 mmol, 4.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C15H25FN2O5Si
reactant | succinic anhydride | 8.4 mmol, 0.84 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 4.4 mmol, 0.54 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5'-O-(tert-Butyldimethylsilyl)-3'-O-(3-Carboxypropionyl)-2'-deoxy-5-fluorouridine | 3.9 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)OC(CCC(=O)O)=O | C19H29FN2O8Si
